US03962443
Ethyl 5,8-dihydro-8-(2-hydroxyethyl)-2-(4-methyl-1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylate (compound 68)
Following the procedure described in Example 37 using ethyl 2-(4-methyl-1-piperazinyl)-5-ethoxypyrido-[2,3-d]pyrimidine-6-carboxylate with ethylenebromohydrine, there is obtained the product, m.p. 197 - 199°C.

reactant | ethyl 2-(4-methyl-1-piperazinyl)-5-ethoxypyrido-[2,3-d]pyrimidine-6-carboxylate | CN1CCN(CC1)C=1N=CC2=C(N1)N=CC(=C2OCC)C(=O)OCC | C17H23N5O3
reactant | ethylenebromohydrine | C(CO)Br | C2H5BrO
product | Ethyl 5,8-dihydro-8-(2-hydroxyethyl)-2-(4-methyl-1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylate | OCCN1C=C(C(C2=C1N=C(N=C2)N2CCN(CC2)C)=O)C(=O)OCC | C17H23N5O4
